** Sheet_1 **
C1 GND C1_2 506NF
C2 C2_1 C1_2 45.33NF
C3 VOLTAGE_S C3_2 41.41NF
L1 VOLPROBEP C1_2 5UH
V1 VOLPROBEP V1_2 SIN(0 5   1 0 0 0) AC AC 1
RLOAD GND VOLTAGE_S 1K
XT1 C2_1 GND XT1_3 C3_2 MUTUAL_INDUCTORS_XT1
VXA2 V1_2 GND 0
VXA1 XT1_3 GND 0

.SUBCKT Mutual_Inductors_XT1 n1 n2 n3 n4
*
* Updated to add Rdcpath1 - Rdcpath4 to 
* provide DC paths to ground in case any 
* winding is left floating by mistake.
*
* signality.co.uk 141006
* 
L1 n1 NetR1_1  60.88u
L2 n4 NetR2_1  61.17u
Rs1 NetR1_1 n2  84.3
Rs2 NetR2_1 n3  85
K1 L1 L2 0.42
*
.param rval=1e9
Rdcpath1 n1 0 {rval}
Rdcpath2 n2 0 {rval}
Rdcpath3 n3 0 {rval}
Rdcpath4 n4 0 {rval}
.ENDS


.SAVE I(VXA2)

.SAVE I(VXA1)

.SAVE VOLTAGE_S VOLPROBEP
;.tran 10m
;.op
.ac lin 1000 10k 200k
.SUBCKT Mutual_Inductors_%s n1 n2 n3 n4
*
* Updated to add Rdcpath1 - Rdcpath4 to 
* provide DC paths to ground in case any 
* winding is left floating by mistake.
*
* signality.co.uk 141006
* 
L1 n1 NetR1_1  %s
L2 n4 NetR2_1  %s
Rs1 NetR1_1 n2  %s
Rs2 NetR2_1 n3  %s
K1 L1 L2 %s
*
.param rval=1e9
Rdcpath1 n1 0 {rval}
Rdcpath2 n2 0 {rval}
Rdcpath3 n3 0 {rval}
Rdcpath4 n4 0 {rval}
.ENDS
*****************************************
* Note that this Ammeter model has 
* an internal resistance of 1e-6 Ohm.
* This is to avoid error message 
* generation due to accidental 
* placement of a zero resistance 
* across an ideal voltage source or 
* inductor.
**
* signality.co.uk 180712
*****************************************
.subckt ammeter 1 2
Vammeter 1 3 0
Rser 3 2 1u
.ends ammeter
*****************************************